US08461328B2
Trans 4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanol (5.00 g, 13.0 mmol) was dissolved in DCM (50 mL) and 2,6-lutidine (6.0 mL, 51.8 mmol) was added. The mixture was cooled to 0° C. and tert-butyldimethylsilyl triflate (8.90 mL, 38.9 mmol) was added dropwise. The mixture was allowed to return to room temperature and stirred for 16 h. The mixture was concentrated under vacuum, then the residue was dissolved in methanol (10 mL). This mixture was stirred at room temperature for 90 min, then concentrated. The residue was suspended in water and extracted with DCM (×3). The combined organic extracts were washed sequentially with 10% aqueous citric acid, saturated aqueous NaHCO3 and brine, then dried (Na2SO4) and concentrated under vacuum. Purification by column chromatography on silica gel (gradient: DCM to 25% ethyl acetate in DCM) gave 3.09 g (48%) of trans 1-benzenesulfonyl-N*4*-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-1H-pyrrolo[2,3-b]pyridine-4,5-diamine. LCMS (Method B, ESI): RT=3.99 min, m+H=501.1; NMR (400 MHz, CDCl3) δ: 8.14 (d, 2H), 7.84 (s, 1H), 7.54 (m, 1H), 7.45 (m, 3H), 6.55 (d, 1H), 3.70 (m, 2H), 2.35-1.85 (m, 6H), 1.46 (m, 2H), 1.30 (m, 2H), 0.89 (s, 9H), 0.06 (s, 6H).

reactant | Trans 4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanol | 13.0 mmol, 5.00 g | NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)N[C@@H]2CC[C@H](CC2)O | C19H22N4O3S
reactant | 2,6-lutidine | 51.8 mmol, 6.0 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl triflate | 38.9 mmol, 8.90 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | trans 1-benzenesulfonyl-N*4*-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl]-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 3.09 g, 48% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2N[C@@H]2CC[C@H](CC2)O[Si](C)(C)C(C)(C)C)N | C25H36N4O3SSi
